US07432279B2
6-(pyridin-3-ylmethylamino)-4-(4-(trifluoromethoxy)phenylamino)-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 29, 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile (0.200 g, 0.963 mmol) was reacted with 4-(trifluoromethoxy)aniline (0.14 mL, 0.19 g, 1.1 mmol), then with 3-(aminomethyl)pyridine. The crude product was purified twice by preparative HPLC, and lyophilized to give a fluffy, bright yellow solid (16 mg, 3.8% yield): 1H NMR (400 MHz, DMSO-D6) δ 4.57 (d, J=6.6 Hz, 2 H) 7.12 (s, 1 H) 7.33 (dd, J=7.6, 4.8 Hz, 1 H) 7.38 (s, 4 H) 7.52 (t, J=6.1 Hz, 1 H) 7.75 (d, J=7.6 Hz, 1 H) 8.29 (s, 1 H) 8.43 (d, J=3.8 Hz, 1 H) 8.59 (s, 1 H) 8.86 (s, 1 H) 9.67 (s, 1 H).

reactant | 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile | 0.963 mmol, 0.200 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 4-(trifluoromethoxy)aniline | 1.1 mmol, 0.14 mL, 0.19 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 6-(pyridin-3-ylmethylamino)-4-(4-(trifluoromethoxy)phenylamino)-1,7-naphthyridine-3-carbonitrile | 16 mg, 3.8% yield | N1=CC(=CC=C1)CNC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC(F)(F)F | C22H15F3N6O
